US07276516B2
Add methyl chloroformate (60 μL, 73 mg, 0.78 mmol, 3.1 equiv) to a suspension of N-azetidin-3-yl-4-(3-phenyl-indole-1-sulfonyl)-benzamide (108 mg, 0.250 mmol, 1 equiv) and triethylamine (140 μL, 100 mg, 1.0 mmol, 4.0 equiv) in anhydr CH2Cl2 (3 mL). Observe a vigorous gas evolution. After stirring 4 h, rotary evaporate the reaction solution. Transfer the resultant material to a column of silica gel (80 mm×20 mm dia.) and elute (20-60% EtOAc/hex) to yield 84 mg (69%) of 3-[4-(3-phenyl-indole-1-sulfonyl)-benzoylamino]-azetidine-1-carboxylic acid methyl ester as an off-white foam. MS (m/e): 489.96 (M+1); 488.09 (M−1).

reactant | methyl chloroformate | 0.78 mmol, 60 μL, 73 mg, 3.1 equiv | ClC(=O)OC | C2H3ClO2
reactant | N-azetidin-3-yl-4-(3-phenyl-indole-1-sulfonyl)-benzamide | 0.250 mmol, 108 mg, 1 equiv | N1CC(C1)NC(C1=CC=C(C=C1)S(=O)(=O)N1C=C(C2=CC=CC=C12)C1=CC=CC=C1)=O | C24H21N3O3S
reactant | triethylamine | 1.0 mmol, 140 μL, 100 mg, 4.0 equiv | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | 3-[4-(3-phenyl-indole-1-sulfonyl)-benzoylamino]-azetidine-1-carboxylic acid methyl ester | 84 mg, 69% | COC(=O)N1CC(C1)NC(C1=CC=C(C=C1)S(=O)(=O)N1C=C(C2=CC=CC=C12)C1=CC=CC=C1)=O | C26H23N3O5S
